US05371093
2-[1-[1-[2-(4-Methoxyphenyl)ethyl]-4-piperidinyl]ethenyl]benzothiazole
Dissolve methyltriphenylphosphonium bromide (2.50 g, 6.99 mmol) in anhydrous tetrahydrofuran (50 mL). Add n-butyllithium (2.8 mL of a 2.5M solution in hexane, 6.99 mmol) and cool to -10° C. Add, by dropwise addition, a solution of [2-benzothiazolyl][1-[2-(4-methoxyphenyl)ethyl]-4-piperidinyl]methanone (2.66 g, 6. 99 mmol) in anhydrous tetrahydrofuran (50 mL). Stir for 2 hours then quench with water. Separate the organic phase and extract the aqueous phase with ethyl ether. Combine the organic phases, dry (MgSO4) and evaporate the solvent in vacuo. Purify by chromatography (50% ethyl ether/hexane) to give the title compound as a white powder; mp 84°-85° C.

reactant | n-butyllithium | C(CCC)[Li]
reactant | [2-benzothiazolyl][1-[2-(4-methoxyphenyl)ethyl]-4-piperidinyl]methanone | 99 mmol, 2.66 g | S1C(=NC2=C1C=CC=C2)C(=O)C2CCN(CC2)CCC2=CC=C(C=C2)OC | C22H24N2O2S
catalyst | methyltriphenylphosphonium bromide | 6.99 mmol, 2.50 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 2-[1-[1-[2-(4-Methoxyphenyl)ethyl]-4-piperidinyl]ethenyl]benzothiazole | COC1=CC=C(C=C1)CCN1CCC(CC1)C(=C)C=1SC2=C(N1)C=CC=C2 | C23H26N2OS
